US08012956B2
To a solution of 2-bromo-3-methoxybenzoic acid (718 mg, 3.11 mmol) in methanol (20 mL) was added a catalytic amount of concentrated sulfuric acid and the mixture was brought to reflux for 20 h. On cooling to room temperature, the solution was concentrated and the residue was taken into ethyl acetate and washed with water, saturated aqueous sodium bicarbonate (2×) and brine then dried over sodium sulfate. The solution was then filtered and concentrated to give methyl 2-bromo-3-methoxybenzoate (610 mg, 80%). MS (EI) for C9H9BrO3: 245 (MH+).

reactant | 2-bromo-3-methoxybenzoic acid | 3.11 mmol, 718 mg | BrC1=C(C(=O)O)C=CC=C1OC | C8H7BrO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 20 mL | CO | CH4O
product | methyl 2-bromo-3-methoxybenzoate | 610 mg, 80% | BrC1=C(C(=O)OC)C=CC=C1OC | C9H9BrO3
